US04824993
Methyl 4-[(tetrahydro-2H-pyran-2-yl)oxy]benzoate
A solution of methyl 4-hydroxybenzoate (10 g) in EA (60 ml) containing saturated ethereal HCl (3.5 ml) was treated with dihydropyran (12 ml) and the solution was allowed to stand at room temperature for 24 h. A further quantity of dihydropyran (12 ml) and ethereal HCl (3.5 ml) was added and the solution was left for 17 h. The solvent was evaporated and the residue was dissolved in ER (100 ml) and washed with 2N NaOH solution (2×50 ml), brine (50 ml) and then dried. Evaporation gave a residue which on purification by chromatography using 3:97 ER-toluene as eluant gave the title compound as a white solid (10.2 g), m.p. 58°-62°.

reactant | methyl 4-hydroxybenzoate | 10 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | HCl | 3.5 ml | Cl | ClH
reactant | dihydropyran | 12 ml | O1CCCC=C1 | C5H8O
reactant | dihydropyran | 12 ml | O1CCCC=C1 | C5H8O
reactant | HCl | 3.5 ml | Cl | ClH
solvent | EA | 60 ml | CC(OCC)=O | C4H8O2
product | Methyl 4-[(tetrahydro-2H-pyran-2-yl)oxy]benzoate | 10.2 g | O1C(CCCC1)OC1=CC=C(C(=O)OC)C=C1 | C13H16O4
